US07919488B2
Preparation of Intermediate 14: ethyl 1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate
To a solution of para-methoxy benzyl azide (125.0 g, 0.77 mol) in anhydrous DMF (300 mL) was added dropwise propionic acid ethyl ester-(166 g, 1.77 mol) at 0° C. After the addition, the mixture was stirred at RT overnight. The mixture was evaporated in vacuo to yield crude title compound (190.0 g, 95.0%) as yellow oil that was used without further purification.

reactant | para-methoxy benzyl azide | 0.77 mol, 125.0 g | COC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3O
reactant | propionic acid ethyl ester- | 1.77 mol, 166 g | C(C)OC(CC)=O | C5H10O2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate | 190.0 g, 95.0% | COC1=CC=C(CN2N=NC(=C2)C(=O)OCC)C=C1 | C13H15N3O3
